* \\wsl.localhost\Ubuntu-22.04\home\omedeiro\nmem\src\nmem\simulation\spice_circuits\nmem_cell_read.asc
* Generated by LTspice 24.1.4 for Windows.
I1 0 N001 PULSE(0 {E_read} 220n 5n 5n 15n 200n 2)
I2 0 N003 PULSE(0 {I_read} 210n 5n 5n 25n 200n 4)
I3 0 N003 PULSE(0 {I_write} 105n 5n 5n 30n 400n 2)
I4 0 N001 PULSE(0 {E_write} 110n 5n 5n 15n 200n 4)
R1 N001 N002 1n
R2 N003 out 1n
R3 out 0 50
I5 0 N001 PULSE(0 {E_clear} 270n 5n 3n 20n 200n 3)
I6 0 N003 PULSE(0 {-I_write} 310n 5n 5n 30n 400n 2)
R4 out 0 1G
X§HL N002 0 out 0 tempL N006 N008 hTron_behav chan_width=250n, heater_width=100n, chan_thickness=23.6n, chan_length=2.2u, sheet_resistance=78, heater_resistance=300, critical_temp=12.5, substrate_temp=1.3, eta=3, Jsw_tilde={Jsw_set}, Isupp_tilde={enable_set}, Jchanr={Jconst_set}, tau_on=5n, ICh_bias_on=100u, Ih_bias_on=500u
X§HR N005 0 out 0 tempR N007 N009 hTron_behav chan_width=350n, heater_width=100n, chan_thickness=23.6n, chan_length=4.0u, sheet_resistance=78, heater_resistance=300, critical_temp=12.5, substrate_temp=1.3, eta=3, Jsw_tilde={Jsw_set}, Isupp_tilde={enable_set}, Jchanr={Jconst_set}, tau_on=5n, ICh_bias_on=100u, Ih_bias_on=500u
R§irhr N009 0 1
R§ichr N007 0 1
R§irhl N008 0 1
R§ichl N006 0 1
I7 0 N004 PULSE(0 {E_read+68u} 220n 5n 5n 15n 200n 2)
I8 0 N004 PULSE(0 {E_write-70u} 110n 5n 5n 15n 200n 4)
R5 N004 N005 1n
I9 0 N004 PULSE(0 {E_clear} 270n 5n 3n 20n 200n 3)
.param E_clear=535u E_read=329u E_write=515u I_read=630u I_write=80u
.tran 0 1u 0 1n
.options reltol 1e-6
.step param I_read 650u 850u 5u
.param Jsw_set=250G Jconst_set=99G enable_set=540u
.lib hTron_behavioral.lib
.backanno
.end
